US04521420
35 g (0.2 mol) of o-chlorobenzoyl chloride are added to a solution of 30.4 g (0.2 mol) of o-aminobenzhydroxamic acid in 250 ml of dioxane at 20°-30° C. The mixture is boiled under reflux for 3 hours, the solvent is then distilled in vacuo, 100 ml of ether are added to the residue, and the crystalline product is filtered off under suction. It is dissolved in 300 ml of 5% strength sodium hydroxide solution, the solution is filtered and the filtrate is acidified with concentrated hydrochloric acid. The precipitated product is then filtered off under suction and rinsed with water. In this manner, 28.2 g (52% of theory) of 2-(2-chlorophenyl)-3-hydroxy-3,4-dihydro-4-oxo-quinazoline are obtained in the form of crystals of melting point 211° C.

reactant | o-chlorobenzoyl chloride | 0.2 mol, 35 g | ClC1=C(C(=O)Cl)C=CC=C1 | C7H4Cl2O
reactant | o-aminobenzhydroxamic acid | 0.2 mol, 30.4 g | NC1=C(C(=O)NO)C=CC=C1 | C7H8N2O2
solvent | dioxane | 250 ml | O1CCOCC1 | C4H8O2
product | 2-(2-chlorophenyl)-3-hydroxy-3,4-dihydro-4-oxo-quinazoline | 28.2 g, 52% | ClC1=C(C=CC=C1)C1=NC2=CC=CC=C2C(N1O)=O | C14H9ClN2O2
